US08975254B2
a) 2-chloro-3-fluoro-4-(1H-pyrazol-5-yl)benzonitrile
The title compound was prepared from 2-chloro-3-fluoro-4-iodobenzonitrile (0.242 g, 0.86 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester (0.239 g, 0.86 mmol) using the method of Example 34 (a) and (b). Yield 0.075 g. 1H NMR (400 MHz; MeOD): δ 6.84 (dd, 1H), 7.59 (m, 2H), 7.79 (s, 1H), 8.08 (bs, 1H).

reactant | 2-chloro-3-fluoro-4-iodobenzonitrile | 0.86 mmol, 0.242 g | ClC1=C(C#N)C=CC(=C1F)I | C7H2ClFIN
reactant | 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester | 0.86 mmol, 0.239 g | O1C(CCCC1)N1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C14H23BN2O3
product | 2-chloro-3-fluoro-4-(1H-pyrazol-5-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1F)C1=CC=NN1 | C10H5ClFN3
